US07786132B2
(i) 2-(N-Methyl-N-phenylamino)thiazole
A solution of 10 g (60 mmol) of N-methyl-N-phenylthiourea in 100 mL of toluene was treated with 7.2 mL (63 mmol) of chloroacetaldehyde dimethylacetal and heated at reflux for 12 h. The solvent was removed in vacuo and the residue purified by flash chromatography eluting with a linear gradient of 30% EtOAc in hexane to 80% EtOAc in hexane to deliver the title compound. MS (M+H)+ 191.

reactant | N-methyl-N-phenylthiourea | 60 mmol, 10 g | CN(C(=S)N)C1=CC=CC=C1 | C8H10N2S
reactant | chloroacetaldehyde dimethylacetal | 63 mmol, 7.2 mL | COC(CCl)OC | C4H9ClO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(N-Methyl-N-phenylamino)thiazole | CN(C1=CC=CC=C1)C=1SC=CN1 | C10H10N2S
